*****************************************************************
* NXP PSMN2R8-25MLC
*
* Polarity N-Channel
* Ratings 25V/2.800000E-003OHMS/70A
*
* Date Created Tue Jun 12 07:29:10 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R8-25MLC DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 2.3e-10
RLS2 SOURCE 8 0.578053048260522
RLS1 8 7 0.00049

RDS 7 4 2500000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00150549878874444 TC=0.00643043334431964,1.85385995933134E-06
RBD 9 4 0.000816288888491896 TC=0.00643043334431964,1.85385995933134E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 2.07370402715895e-09
RG 1 2 0.711873761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	217.694
+ -16	227.84
+ -10	245.49
+ -5	288.707
+ -4	306.147
+ -3	331.247
+ -2	397.748
+ -1	481.465
+ -0.5	589.626
+ -0.2	700.209
+ -0.1	802.08
+ 0	798.8065
+ 0.1	798.779
+ 0.2	689.354
+ 0.5	569.027
+ 1	447.582
+ 2	343.271
+ 3	299.403
+ 4	272.523
+ 5	254.169
+ 6	240.864
+ 8	221.588
+ 10	208.969
+ 12	200.057
+ 15	190.536
+ 20	179.962



.MODEL MINT NMOS(Vto=2.23 Kp=3.993652e+002 Nfs=300000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=27.5 Ibv=2.500000E-004 Rs=1E-6 Is=1.52982792174814e-12
+ N=1 M=0.730000000000001 VJ=0.98 Fc=0.5 Cjo=2.206356e-09 Tt=2.126404e-08)

.ENDS

